US08058269B2
To the aqueous solution K2CO3 (1.6 μL, 1N) was added (2S)-amino-4-methyl-pentanoic (106 mg, 0.81 mmol), then followed by the addition of rac-3-bromo-6-chloro-3-(3-chloro-benzyl)-1,3-dihydro-indol-2-one (200 mg, 0.54 mmol) in dioxane (5 mL). After the mixture was stirred at room temperature for 4 h, the reaction mixture was concentrated in vacuo. Water (10 mL) was added and the crude was acidified with HCl to PH=4. The mixture was extracted with ethyl acetate (3×10 mL). The combined organic layer was concentrated in vacuo. The residue was purified by chromatography (DCM: MeOH=80:1) to give 184 mg of rac-(2S)-[6-chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-ylamino]-4-methyl-pentanoic acid as a white solid. MS: 421 (M+H)+. H1-NMR (400 MHz, CDCl3) δ 10.04 (s, 1H), 7.12 (m, 5H), 6.93 (t, 1H), 6.76 (m, 2H), 3.32 (m, 1H), 3.16 (dd, 2H), 1.89 (m, 1H), 1.50 (m, 2H), 0.90 (dd, 6H).

reactant | K2CO3 | 1N, 1.6 μL | C(=O)([O-])[O-].[K+].[K+]
reactant | rac-3-bromo-6-chloro-3-(3-chloro-benzyl)-1,3-dihydro-indol-2-one | 0.54 mmol, 200 mg | BrC1(C(NC2=CC(=CC=C12)Cl)=O)CC1=CC(=CC=C1)Cl | C15H10BrCl2NO
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | rac-(2S)-[6-chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-ylamino]-4-methyl-pentanoic acid | 184 mg | ClC1=CC=C2C(C(NC2=C1)=O)(CC1=CC(=CC=C1)Cl)NC(C(=O)O)CC(C)C | C21H22Cl2N2O3
